### PR TITLE
feat(Wikipedia): add cleaned up formal proof of `Invariant_subspace_problem_non_separable`

### PR DESCRIPTION
**Pull request by Paul-Lez**
See discussion in #2222

Co-authored-by: @trevyn

### CODE REVIEW

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 1]
```diff
@@ -55,15 +55,45 @@ theorem Invariant_subspace_problem_finite_dimensional [Module ℂ H] (h : Finite
     (hdim : 2 ≤ Module.rank ℂ H) (T : H →L[ℂ] H) : Nonempty (ClosedInvariantSubspace T) := by
   sorry
 
+@[category API, AMS 47]
+def TopologicalSpace.nontrivial_of_not_separableSpace {H : Type*} [TopologicalSpace H]
+    (h : ¬ TopologicalSpace.SeparableSpace H) : Nontrivial H := by
+  rw [← not_subsingleton_iff_nontrivial]
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean:61]: I doubt you need this line. At least you don't need it on current mathlib
```suggestion
```

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 2]
```diff
@@ -55,15 +55,45 @@ theorem Invariant_subspace_problem_finite_dimensional [Module ℂ H] (h : Finite
...
+      ((Set.countable_range _).isSeparable).span.closure
+    grind [Submodule.top_coe, TopologicalSpace.isSeparable_univ_iff]
+  · -- T maps orbit into orbit, hence span into span, hence closure into closure
+    calc Submodule.map T (Submodule.span ℂ S).topologicalClosure
+        ≤ (Submodule.map T (Submodule.span ℂ S)).topologicalClosure :=
+          Submodule.topologicalClosure_map T _
+      _ ≤ (Submodule.span ℂ S).topologicalClosure := by
+            apply Submodule.topologicalClosure_mono
+            rw [Submodule.map_span]
+            apply Submodule.span_mono
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]: gcongr?

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean:61]: That doesn't work in 4.27

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean:61]: Do you think this is worth me upstreaming to mathlib?

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 3]
```diff
@@ -55,15 +55,45 @@ theorem Invariant_subspace_problem_finite_dimensional [Module ℂ H] (h : Finite
     (hdim : 2 ≤ Module.rank ℂ H) (T : H →L[ℂ] H) : Nonempty (ClosedInvariantSubspace T) := by
   sorry
 
+@[category API, AMS 47]
+def TopologicalSpace.nontrivial_of_not_separableSpace {H : Type*} [TopologicalSpace H]
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]:
```suggestion
lemma TopologicalSpace.nontrivial_of_not_separableSpace {H : Type*} [TopologicalSpace H]
```

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean:61]: Yeah sure!

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean:61]: Cool will open a PR

File: FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean [hunk 4]
```diff
@@ -55,15 +55,45 @@ theorem Invariant_subspace_problem_finite_dimensional [Module ℂ H] (h : Finite
...
+      Submodule.le_topologicalClosure _ (Submodule.subset_span ⟨0, by simp⟩)
+    grind [Submodule.mem_bot]
+  · --W is separable (orbit countable → span separable → closure separable) but H isn't
+    have hsep : TopologicalSpace.IsSeparable (W : Set H) :=
+      ((Set.countable_range _).isSeparable).span.closure
+    grind [Submodule.top_coe, TopologicalSpace.isSeparable_univ_iff]
+  · -- T maps orbit into orbit, hence span into span, hence closure into closure
+    calc Submodule.map T (Submodule.span ℂ S).topologicalClosure
+        ≤ (Submodule.map T (Submodule.span ℂ S)).topologicalClosure :=
+          Submodule.topologicalClosure_map T _
```
Comment (mo271) [inline FormalConjectures/Wikipedia/InvariantSubspaceProblem.lean]:
```suggestion
    calc Submodule.map T.toLinearMap (Submodule.span ℂ S).topologicalClosure
        ≤ (Submodule.map T.toLinearMap (Submodule.span ℂ S)).topologicalClosure :=
          Submodule.topologicalClosure_map T _
```
